US04727180
To 130 ml of ethanol are added 60 g (0.15 mole) of α,α-bis-acetyloxy-4-[1-(acetyloxy)-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]toluene and 13.5 ml of concentrated sulfuric acid in 135 ml of water. The resulting solution is stirred and heated at reflux for thirty minutes. The solution is then cooled and extracted with 1 liter of ether to obtain an ether solution which is washed with water and a saturated sodium bicarbonate solution until the washes were basic. The ether solution is dried with anhydrous magnesium sulfate, filtered and evaporated at reduced pressure to give 42 g of 4-[1-(acetyloxy)-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]benzaldehyde. This compound was not further purified but was used directly in the next step.

reactant | ethanol | 130 ml | C(C)O | C2H6O
reactant | α,α-bis-acetyloxy-4-[1-(acetyloxy)-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]toluene | 0.15 mole, 60 g | C(C)(=O)OC(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OC(C)=O)OC(C)=O | C16H14F6O6
reactant | sulfuric acid | 13.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 135 ml | O | H2O
product | 4-[1-(acetyloxy)-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]benzaldehyde | 42 g | C(C)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=O)C=C1 | C12H8F6O3
